US04472305
Condensation of BocPro-DPhg-PheNHNH2 (1.27 g.) and HDPhe-Leu-MetNH2 hydrochloride salt (Example 23, 1.11 g.) by the acyl azide method (Yajima et al., Chem. Pharm. Bull., vol. 19, p. 1900, 1971) gave BocPro-DPhg-Phe-Dphe-Leu-MetNH2 in 89% yield. De-t-butoxycarbonylation of BocPro-DPhg-Phe-DPhe-Leu-MetNH2 (1.67 g.) using hydrogen chloride in ethyl acetate gave HPro-DPhg-Phe-DPhe-Leu-MetNH2, which was isolated as the amorphous white solid phosphate (1:1) salt pentahydrate in 12% yield.

reactant | BocPro-DPhg-Phe-DPhe-Leu-MetNH2 | 1.67 g | N1([C@H](C(=O)N[C@H](C2=CC=CC=C2)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@H](CC2=CC=CC=C2)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N)CCC1)C(=O)OC(C)(C)C | C47H63N7O8S
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | HPro-DPhg-Phe-DPhe-Leu-MetNH2 | N1[C@H](C(=O)N[C@H](C2=CC=CC=C2)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@H](CC2=CC=CC=C2)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N)CCCC1 | C43H57N7O6S
